US08754054B2
Following General Procedure: Method A using (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (25 mg, 0.035 mmol), potassium carbonate (15 mg, 0.11 mmol) and iodomethane (7 μL, 0.11 mmol), the product was purified by preparative TLC (silica gel, 95:5 dichloromethane/methanol) to afford (6R,6aS,14aR)-methyl 6,8,14a-trihydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-1,6a-dimethoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (12 mg, 48%) as a brown solid: 1H NMR (500 MHz, CDCl3) δ 14.15 (s, 1H), 8.11 (s, 1H), 6.84 (d, J=9.0 Hz, 1H), 6.81 (s, 1H), 5.88 (s, 1H), 5.04 (br s, 1H), 4.96 (dd, J=10.3, 6.6 Hz, 1H), 4.69 (d, J=8.9 Hz, 1H), 4.54 (d, J=10.6 Hz, 1H), 3.80 (s, 3H), 3.79 (s, 3H), 3.74-3.71 (m, 1H), 3.69 (dd, J=3.1, 1.2 Hz, 1H), 3.60 (s, 3H), 3.59 (s, 3H), 3.61-3.56 (m, 1H), 3.40 (s, 3H), 3.39-3.33 (m, 2H), 3.12 (t, J=9.2 Hz, 1H), 2.47 (d, J=4.6 Hz, 1H), 2.18 (s, 3H), 1.36 (d, J=6.2 Hz, 3H); MS (ESI+) m/z 712 (M+H); HPLC 95.9% (AUC), tR 12.66 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.035 mmol, 25 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | potassium carbonate | 0.11 mmol, 15 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.11 mmol, 7 μL | IC | CH3I
product | (6R,6aS,14aR)-methyl 6,8,14a-trihydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-1,6a-dimethoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 12 mg, 48% | O[C@@H]1CC2=C([C@@]3(C(C4=CC=5C(C(=CC(C5C(=C4C([C@]13OC)=O)O)=O)N[C@H]1O[C@H]([C@@H]([C@H]([C@H]1OC)O)OC)C)=O)=O)O)C(=C(C(=C2)C)C(=O)OC)OC | C35H37NO15
